US08530648B2
i) 1-((1H-indol-4-yl)methyl)-9-(quinoxalin-2-yl)-1,9-diazaspiro[5.5]undecan-2-one
Cs2CO3 (0.201 g, 0.621 mmol) was added to a stirred solution of 9-(quinoxalin-2-yl)-1-((1-tosyl-1H-indol-4-yl)methyl)-1,9-diazaspiro[5.5]undecan-2-one (0.12 g, 0.207 mmol) in methanol (8.0 mL) and stirring was continued for 16 h at 80° C. under a nitrogen atmosphere. The reaction mixture was quenched with ice-cold water and extracted with ethyl acetate (2×125 mL), dried over anhydrous Na2SO4, filtered and concentrated. The crude product was purified by preparative HPLC under neutral conditions to yield the title compound as a yellow solid (0.022 g, 25%). [1H-NMR (CDCl3, 300 MHz): δ 8.5 (s, 1H), 8.21 (brs, 1H), 7.88 (d, 1H), 7.91-7.55 (m, 2H), 7.42 (t, 1H), 7.19-7.08 (m, 2H), 6.85 (d, 1H), 6.49-6.42 (m, 1H), 4.99 (s, 2H), 4.49-4.36 (m, 2H), 3.12 (t, 2H), 2.69 (t, 2H), 2.25-2.10 (m, 4H), 2.03-1.90 (m, 2H), 1.78 (d, 2H); HPLC RtA=4.393 min (98%); LCMS RtE=1.753, [M+H]+=426.1].

reactant | Cs2CO3 | 0.621 mmol, 0.201 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 9-(quinoxalin-2-yl)-1-((1-tosyl-1H-indol-4-yl)methyl)-1,9-diazaspiro[5.5]undecan-2-one | 0.207 mmol, 0.12 g | N1=C(C=NC2=CC=CC=C12)N1CCC2(CCCC(N2CC2=C3C=CN(C3=CC=C2)S(=O)(=O)C2=CC=C(C)C=C2)=O)CC1 | C33H33N5O3S
solvent | methanol | 8.0 mL | CO | CH4O
product | 1-((1H-indol-4-yl)methyl)-9-(quinoxalin-2-yl)-1,9-diazaspiro[5.5]undecan-2-one | 0.022 g, 25% | N1C=CC2=C(C=CC=C12)CN1C(CCCC12CCN(CC2)C2=NC1=CC=CC=C1N=C2)=O | C26H27N5O
